### PR TITLE
is_derive1_powR

### PR DESCRIPTION
**Pull request by IshiguroYoshihiro**
##### Motivation for this change
This PR is under #1565 .
Adding an Instance for `powR` of `is_derive1`.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Review by hoheinzollern — APPROVED** [review]
Looks good to me

File: CHANGELOG_UNRELEASED.md [hunk 1]
```diff
@@ -158,6 +162,9 @@
 - in `real_interval.v`:
   + lemmas `bigcup_itvT`, `itv_bndy_bigcup_BRight`, `itv_bndy_bigcup_BLeft_shift`
 
+- in `normedtype.v`:
+  + lemmas "gt0_cvgMlNy", "gt0_cvgMly"
```
Comment (affeldt-aist) [inline CHANGELOG_UNRELEASED.md:166]:
```suggestion
  + lemmas `gt0_cvgMlNy`, `gt0_cvgMly`
```

File: theories/exp.v [hunk 2]
```diff
@@ -1053,6 +1059,54 @@ Qed.
...
+move=> x0; apply: (@cvg_trans _ ((expR (ln a * x)) @[a --> 0^'+])).
+  by apply: near_eq_cvg; near=> a; rewrite /powR gt_eqF 1?mulrC.
+apply: (@cvg_comp _ _ _ _ _ _ (@ninfty_nbhs R)).
+  by apply: gt0_cvgMlNy; rewrite ?x0//; exact: lnNy.
+exact/cvgNy_compNP/cvgr_expR.
+Unshelve. end_near. Qed.
+
+Lemma derivable_powR v x : v != 0 ->
+  {in `]0, +oo[, forall a,
+    derivable (powR ^~ x) a v}.
```
Comment (affeldt-aist) [inline theories/exp.v:1074]:
```suggestion
  {in `]0, +oo[, forall a, derivable (powR ^~ x) a v}.
```

File: theories/exp.v [hunk 3]
```diff
@@ -1053,6 +1059,53 @@ Qed.
 Canonical powR_inum (i : Itv.t) (x : Itv.def (@Itv.num_sem R) i) p :=
   Itv.mk (num_spec_powR x p).
 
+Lemma powR_cvg0 (x : R) : 0 < x ->
+  a `^ x @[a --> 0^'+] --> 0.
```
Comment (affeldt-aist) [inline theories/exp.v:1063]:
```suggestion
Lemma powR_cvg0 (x : R) : 0 < x -> a `^ x @[a --> 0^'+] --> 0.
```

**Review by affeldt-aist — APPROVED** [review]

File: reals/reals.v [hunk 4]
```diff
@@ -38,7 +38,7 @@
 (*                                                                            *)
 (******************************************************************************)
 
-From Corelib Require Import Setoid.
+From Coq Require Import Setoid.
```
Comment (affeldt-aist) [inline reals/reals.v:41]:
```suggestion
From Corelib Require Import Setoid.
```

File: experimental_reals/discrete.v [hunk 5]
```diff
@@ -4,7 +4,7 @@
 (* Copyright (c) - 2016--2018 - Polytechnique                           *)
 
 (* -------------------------------------------------------------------- *)
-From Corelib Require Setoid.
+From Coq Require Setoid.
```
Comment (affeldt-aist) [inline experimental_reals/discrete.v:7]:
```suggestion
From Corelib Require Setoid.
```
